US06251936B1
2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-cyclopentyl-phenol
To a suspension of 2-cyclopentyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol (2.0 g, 4.4 mmol) and potassium acetate (4.4 g, 44.3 mmol) in glacial acetic acid (60 mL) was added dropwise over a period of 17 minutes a solution of bromine (0.27 mL, 5.3 mmol) in glacial acetic acid (8 mL). The thick reaction mixture was diluted with glacial acetic acid (20 mL). After stirring at room temperature for 2 h the reaction mixture was poured into water (500 mL). The solution was extracted once with diethyl ether (250 mL), and then with diethyl ether (100 mL). The combined extracts were washed twice with water (100 mL). Concentration under reduced pressure and chromatography with petroleum ether:ethyl acetate (98:2), followed by trituation with petroleum ether gave the title compound as a white solid (1.2 g, 52%): mp 189.5-191° C.; (DMSO-d6): δ9.19 (s, 1H), 8.18 (d, 1H), 7.65-7.61 (m, 1H), 7.50-7.47 (m, 2H), 7.33 (d, 1H), 7.11 (d, 1H), 3.42 (quintet, 1H), 2.43 (s, 3H), 2.00-1.97 (m,2H), 1.69-1.46 (m, 6H), 1.60 (s, 3H); MS(EI): [M+], 2 bromine isotope pattern, 528 (46%), 530 (100%), 532 (52%); Anal. Calc. for C25H22Br2OS: C, 56.62; H, 4.18; N, 0.00. Found: C, 55.78; H, 4.12; N, 0.05.

reactant | 2-cyclopentyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 4.4 mmol, 2.0 g | C1(CCCC1)C1=C(C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)O | C25H23BrOS
reactant | potassium acetate | 44.3 mmol, 4.4 g | C(C)(=O)[O-].[K+]
reactant | bromine | 5.3 mmol, 0.27 mL | BrBr | Br2
reactant | water | 500 mL | O | H2O
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-cyclopentyl-phenol | 1.2 g, 52% | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C2CCCC2)O | C25H22Br2OS
